US07598393B2
Step A. 4-Bromo-2-nitro-N-[2-(trifluoromethoxy)ethyl]aniline
The title compound was prepared according to the procedure described in Step A of Example 5 from 2-(trifluoromethoxy)ethanamine hydrochloride (J. Org. Chem. 2001, 66, 1061-1063), 4-bromo-1-fluoro-2-nitrobenzene (Wako Pure Chemical Industries, Ltd.) and N,N-diisopropylethylamine.

reactant | 2-(trifluoromethoxy)ethanamine hydrochloride | Cl.FC(OCCN)(F)F
reactant | 4-bromo-1-fluoro-2-nitrobenzene | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
product | 4-Bromo-2-nitro-N-[2-(trifluoromethoxy)ethyl]aniline | BrC1=CC(=C(NCCOC(F)(F)F)C=C1)[N+](=O)[O-] | C9H8BrF3N2O3
